US06030967
To an ethanol (10Oml) solution of dimethyl 6-methoxy-9-(4-methoxyphenyl)-naphtho[1,2-d]-1,3-dioxole-7,8-dicarboxylate (2.33 g, 5.04 mmol) was added 4N sodium hydroxide solution (10 ml) and heated under reflux for 2 hours. Ethanol was distilled off under reduced pressure. Concentrated hydrochloric acid was added to the residue to adjust the pH of the mixture to about 1 and extracted with THF-ethyl acetate(1:1) twice. The organic layer was washed with saturated sodium chloride solution and dried with magnesium sulfate, then the solvent was distilled off under reduced pressure. The obtained residue was heated for 10 minutes at 150° C. to give crude crystals of 6-methoxy-10-(4-methoxyphenyl)-furo[3',4':6,7]naphtho[1,2-d]-1,3-dioxol-7,9-dione.

reactant | dimethyl 6-methoxy-9-(4-methoxyphenyl)-naphtho[1,2-d]-1,3-dioxole-7,8-dicarboxylate | 5.04 mmol, 2.33 g | COC1=C2C=CC3=C(OCO3)C2=C(C(=C1C(=O)OC)C(=O)OC)C1=CC=C(C=C1)OC | C23H20O8
reactant | sodium hydroxide | 4N, 10 ml | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 6-methoxy-10-(4-methoxyphenyl)-furo[3',4':6,7]naphtho[1,2-d]-1,3-dioxol-7,9-dione | COC1=C2C=CC3=C(OCO3)C2=C(C2=C1C(OC2=O)=O)C2=CC=C(C=C2)OC | C21H14O7
